Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Shellfish
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, vomiting
 
Major Surgical or Invasive Procedure:
EGD ___:

Erythema, congestion, and ulceration in the antrum (biopsy) 
Ulcers in the incisura of the stomach, antrum and pylorus 
Nodule in the fundus 
Ulcers in the gastroesophageal junction (biopsy) 
Otherwise normal EGD to third part of the duodenum

 
History of Present Illness:
___ F w/history of achalasia s/p ___ myotomy w/partial  
fundoplication in ___ referred from PCP ___ ___ weeks of 
worsening epigastric pain. She had been in her usual state of 
health until a few months ago, when she began having 
intermittent epigastric pain, which has become increasing in 
severity, frequency, and duration for the past ___ weeks. The 
pain is a dull pressure, ___ at its worst, radiates to the 
chest, left upper quadrant, and at its most severe to the back. 
The pain is still intermittent, occurs about ___ times a week 
___ hours after eating, mostly at night, lasts for hours each 
time before resolving spontaneously, waking her up from sleep. 
The pain was associated with nausea and nonbloody non-bilious 
emesis when at its most severe. Is nonexertional. Nothing makes 
the pain better though she has not tried antacids or PPIs. Has 
been taking advil and motrin for the pain, which has not helped 
(took 4 tablets yesterday).  
She has mild reflux symptoms which have worsened since onset of 
pain. She also notes a "soreness" in her chest when swallowing 
that is new in the last 3 weeks, and has been eating less 
because of this. The patient denies shortness of breath, cough, 
chest pain, change in bowel or bladder habits, unexplained 
weight loss, fever/chills. She has not experienced any melena or 
BRBPR. Last bowel movement was 2 days ago.  
 
In the ED intial vitals were: Pain 7 97.3 60 173/91 18 100%. Pt 
had CT scan abd/pelvis demonstrating antral gastric wall 
thickening suggesting antral gastritis or peptic ulcer disease 
w/o evidence of technical complication from prior surgery. EKG 
showed no ischemic changes. Troponin negative. Pain was 
controlled with morphine and zofran. Pt received 1L IVF. Surgery 
was consulted and recommended medicine admission with further GI 
workup. On transfer, vitals were 97.7 60 120/68 14 97% RA.  
On the floor, she is resting comfortably, and notes no abdominal 
pain or nausea 

 
Past Medical History:
Achalasia s/p Laparoscopic ___ myotomy/fundoplication  
Asthma  
Hgb SC  
Vitamin D deficiency 

 
Social History:
___
Family History:
Cancer - Breast Mother at age ___ and she now has dementia.  
Alcoholism - Father- passed away at ___ from ETOH  
Hypertension- grandmother  
No one else in her family has other cancers or GI disorders.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:

Vitals- 98.2 135/75 64 16 100 RA 
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Scattered inspiratory wheezes throughout, rhonchi at R 
base, no rales
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, tender to palpation in mid-epigastric area and 
RUQ, + ___ sign, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal 

DISCHARGE PHYSICAL EXAM:

Vitals- 98.5 ___ 58-66 16 100 RA 
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Scattered inspiratory wheezes throughout, rhonchi at R 
base, no rales
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, mildly tender to palpation in mid-epigastric area 
and RUQ, non-distended, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal 
 
Pertinent Results:
ADMISSION LABS:

___ 08:00PM BLOOD WBC-8.2 RBC-5.60* Hgb-15.8 Hct-44.2 
MCV-79* MCH-28.3 MCHC-35.8* RDW-13.8 Plt ___
___ 08:00PM BLOOD ___ PTT-31.3 ___
___ 08:00PM BLOOD Glucose-112* UreaN-7 Creat-0.7 Na-137 
K-4.6 Cl-102 HCO3-27 AnGap-13
___ 08:00PM BLOOD ALT-12 AST-17 AlkPhos-76 TotBili-0.6
___ 08:00PM BLOOD Lipase-18
___ 08:00PM BLOOD cTropnT-<0.01
___ 08:00PM BLOOD Albumin-4.4 Calcium-9.8 Phos-3.2# Mg-2.3
___ 08:00PM BLOOD 25VitD-14*

DISCHARGE LABS:

___ 07:00AM BLOOD WBC-5.1 RBC-5.11 Hgb-14.0 Hct-39.9 
MCV-78* MCH-27.4 MCHC-35.0 RDW-14.1 Plt ___
___ 07:00AM BLOOD Glucose-87 UreaN-7 Creat-0.9 Na-143 K-4.0 
Cl-105 HCO3-31 AnGap-11

___ CT ABDOMEN:
IMPRESSION: Antral gastric wall thickening suggests antral 
gastritis or peptic ulcer disease.  Correlate with symptoms to 
determine role of nonemergent barium upper GI or endoscopy. 

___ EGD:
•Erythema, congestion, and ulceration in the antrum (biopsy)
•Ulcers in the incisura of the stomach, antrum and pylorus
•Nodule in the fundus
•Ulcers in the gastroesophageal junction (biopsy)
•Otherwise normal EGD to third part of the duodenum

___ Biopsies:
1. Gastroesophageal junction:
- Severely active esophagitis with focal ulceration and 
fibrinopurulent
exudate.
- Special study results for fungi and HSV will be reported in a 
revised
report.
- Cardiac-type mucosa with chronic inflammation; no intestinal
metaplasia seen.

2. Antrum:
Antral mucosa with focal foveolar zone hyperplasia; no 
significant
inflammation identified. See note.
Note:  The findings are non-specific, but may be seen with 
adjacent
ulceration. Correlation with endoscopic findings is recommended.

 

 
Brief Hospital Course:
___ w/history of achalasia s/p ___ myotomy/fundoplication 
presents with abdominal pain and vomiting found to have multiple 
gastric ulcers.  

ACTIVE ISSUES:  
 
# Gastric ulcers:  
Patient's epigastric pain, nausea and vomiting, and imaging 
findings of antral thickening were consistent w/gastritis vs. 
peptic ulcer disease. There was no evidence of acute GI 
bleeding. An EGD was done that showed erythema, congestion, and 
ulceration in the antrum (biopsied), ulcers in the incisura of 
the stomach, antrum and pylorus, nodule in the fundus, and 
ulcers in the gastroesophageal junction (biopsied). She was 
treated with 40mg omeprazole BID, sucralfate 1gm QID, standing 
calcium carbonate, and maalox/diphenhydramine/lidocaine with 
great improvement in abdominal pain. She was tolerating a 
regular diet when discharged. H. pylori serology was obtained 
and pending at time of discharge. She was afebrile and 
hemodynamically stable throughout hospitalization.
   
CHRONIC ISSUES: 
 
# Asthma: Patient reported not being consistent with taking 
Flovent though had not had any recent asthma attacks. Denied 
wheezing or shortness of breath. However, there was wheezing on 
auscultation throughout her stay. She did not need further 
treatment for her asthma during this hospitalization. She was 
discharged on Flovent 2 puffs BID, pt advised to adhere to this 
regimen daily, as well as Albuterol inhaler PRN. Can optimize 
asthma treatment as outpatient. 
 
# Vitamin D deficiency: Patient had not been taking Vitamin D. 
Vitamin D level came back low at 14. Consider repletion as 
outpatient.

TRANSITIONAL ISSUES:  
- f/u H. pylori serology to determine whether triple-therapy 
indicated -> returned negative
- f/u stomach biopsies
- Will need to stay on omeprazole 40mg BID, sucralfate 1gm QID, 
and calcium carbonate PRN for 8 weeks
- Will need repeat EGD in 8 weeks to assess for healing, and 
consider EUS at that time as well to further evaluate submucosal 
nodule in the fundus
- With regards to asthma, was discharged on Flovent 2 puffs BID, 
pt advised to adhere to this regimen daily, as well as Albuterol 
inhaler PRN. Can optimize asthma treatment as outpatient. 
- Vitamin D level low at 14, recommend repletion as outpatient
- Avoid all NSAIDS. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 4 PUFF IH BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule,delayed ___ by 
mouth twice a day Disp #*60 Capsule Refills:*1
3. Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*120 Tablet Refills:*1
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
RX *fluticasone [Flovent HFA] 110 mcg/actuation 2 PUFFS INHALED 
Twice a day Disp #*1 Inhaler Refills:*0
5. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
RX *albuterol sulfate 90 mcg 2 PUFFS INHALED Four times a day 
Disp #*1 Inhaler Refills:*1
6. Calcium Carbonate 500 mg PO QID:PRN abdominal pain 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 
tablet,chewable(s) by mouth Four times a day Disp #*60 Tablet 
Refills:*0
7. ___ 200-25-400-40 mg/30 mL mucous 
membrane qid prn abdominal discomfort 
RX ___ [FIRST-Mouthwash ___] 400 
mg-400 mg-40 mg-25 mg-200 mg/30 mL ___ by mouth Every ___ 
hours Disp #*1 Bottle Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Gastric ulcers

Secondary:
Asthma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at the ___. As you know, 
you were admitted for abdominal pain and vomiting. You had an 
endoscopy which showed many ulcers in your stomach that caused 
your pain and vomiting. You were treated with high-dose acid 
blocking medicines, sucralfate, and tums with significant 
improvement in your abdominal pain. You were considered safe for 
discharge as you were tolerating a regular diet without issue. 

It is very important to stay on these medications for the next 8 
weeks to allow the ulcers in your stomach to heal. Please 
follow-up with your PCP as scheduled below. You will need a 
repeat endoscopy in 8 weeks to ensure healing of the ulcers. We 
also checked for the presence of H. pylori, a bacteria that can 
cause stomach ulcers. The results of this test are still pending 
and will be communicated to your PCP. 

In the meantime, it is extremely important to avoid all NSAIDS 
(ibuprofen, advil, motrin, aleve, etc.), as use of these 
medications can worsen ulcer disease.

As for your asthma, we noticed some mild wheezing while you were 
in the hospital. It is important to take Flovent as prescribed 
on a daily basis regardless of how your breathing feels. You 
will be going home with an albuterol inhaler that you can use 
for shortness of breath and wheezing as needed.

We wish you the best of luck!
 
Followup Instructions:
___